US05538976
5-[N-(5-Nitro-2-pyridyl)-N-(4-thiazolylmethyl)amino]pyrimidine
Starting compounds: 5-[N-(5-nitro-2-pyridyl) amino]pyrimidine and 4-chloromethylthiazole

reactant | 5-[N-(5-nitro-2-pyridyl) amino]pyrimidine | [N+](=O)([O-])C=1C=CC(=NC1)NC=1C=NC=NC1 | C9H7N5O2
reactant | 4-chloromethylthiazole | ClCC=1N=CSC1 | C4H4ClNS
product | 5-[N-(5-Nitro-2-pyridyl)-N-(4-thiazolylmethyl)amino]pyrimidine | [N+](=O)([O-])C=1C=CC(=NC1)N(CC=1N=CSC1)C=1C=NC=NC1 | C13H10N6O2S
